US07576072B2
Step C: Preparation of 6-chloro-7-fluoro-5-methylpyrazolo[1,5-a]pyrimidine.
A mixture of 6,7-dichloro-5-methylpyrazolo[1,5-a]pyrimidine (1.00 equivalent), 18-crown-6 (5 mol %), and KF (3.00 equivalents) in MeCN is heated under reflux with stirring. After 17 hours, the reaction mixture is poured into water, extracted with EtOAc, dried (MgSO4), and concentrated. The product is purified by flash chromatography as necessary.

reactant | 6,7-dichloro-5-methylpyrazolo[1,5-a]pyrimidine | 1.00 equivalent | ClC=1C(=NC=2N(C1Cl)N=CC2)C | C7H5Cl2N3
reactant | 18-crown-6 | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | KF | 3.00 equivalents | [F-].[K+]
reactant | water | O | H2O
solvent | MeCN | CC#N | C2H3N
product | 6-chloro-7-fluoro-5-methylpyrazolo[1,5-a]pyrimidine | ClC=1C(=NC=2N(C1F)N=CC2)C | C7H5ClFN3
